US06281227B1
B. 3-(S)-Amino-1-(4-aminoquinolin-7-ylmethyl)pyrrolidin-2-one hydrochloride
[1-(4-chloroquinolin-7-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]carbamic acid tert-butyl ester (250 mg, 0.665 mmol), phenol (626 mg, 6.65 mmol), and anhydrous acetate (513 mg, 6.65 mmol) are combined and heated at 100° C., with reflux apparatus, under nitrogen overnight. Then the mixture is cooled to room temperature, and acetonitrile (20 mL) and water (20 mL) are added. The solution separates into 2 phases (both containing product), which are concentrated to dryness, and separately purified by reverse phase preparation HPLC with gradient elution 20-40% acetonitrile/water (0.1% trifluoroacetic acid). The product fractions from each run are combined, the solvents are removed in vacuo, and the residue dried under high vacuum overnight. The [1-(4-Aminoquinolin-7-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]carbamic acid tert-butyl ester intermediate is dissolved in methanol, and cooled to 0° C., whilst bubbling dry HCl(g) through the solution until saturated. The reaction mixture is left at room temperature for 2 hours, and concentrated in vacuo. The residue is washed with ether to give the pure product as a colorless powder (170 mg, 0.516 mmol).

reactant | [1-(4-chloroquinolin-7-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]carbamic acid tert-butyl ester | 0.665 mmol, 250 mg | C(C)(C)(C)OC(N[C@@H]1C(N(CC1)CC1=CC=C2C(=CC=NC2=C1)Cl)=O)=O | C19H22ClN3O3
reactant | phenol | 6.65 mmol, 626 mg | C1(=CC=CC=C1)O | C6H6O
reactant | acetate | 6.65 mmol, 513 mg | C(C)(=O)[O-]
reactant | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | water | 20 mL | O | H2O
product | 3-(S)-Amino-1-(4-aminoquinolin-7-ylmethyl)pyrrolidin-2-one hydrochloride | 0.516 mmol, 170 mg | Cl.N[C@@H]1C(N(CC1)CC1=CC=C2C(=CC=NC2=C1)N)=O | InChI=1S/C14H16N4O.ClH/c15-11-3-5-17-13-7-9(1-2-10(11)13)8-18-6-4-12(16)14(18)19;/h1-3,5,7,12H,4,6,8,16H2,(H2,15,17);1H/t12-;/m0./s1
